US06544495B1
II. Quaternization (Synthesis of N-butyl-N-cyclohexylpyrrolidinium Iodide)
To a solution of 50 gm (0.326 mole) of N-cyclohexylpyrrolidine in 600 ml anhydrous methanol, 120 gm (0.652 mole) of butyl iodide is added. The reaction is mechanically stirred for 48 hours at room temperature. Then, an additional equivalent of butyl iodide and one equivalent (33.7 gm; 0.326 mole) of potassium bicarbonate are added and the reaction is stirred at refluxing temperature for 72 hours. The reaction mixture is concentrated under reduced pressure on a rotary evaporator to give an off-white-colored solid material. The solids are rinsed several times with chloroform and filtered after each rinse. All the chloroform rinses are combined and concentrated to give a white powder whose NMR data is acceptable for the desired quaternary ammonium iodide salt. The reaction affords 95 gm (86% yield) of the product. The iodide salt is purified by recrystallization. This is done by completely dissolving the iodide salt in acetone and then precipitating by the addition of ethyl ether to the acetone solution. The procedure gives 87 gm of white powder with very clean 1H and 13C-NMR spectra for the product (N-butyl-N-cyclohexylpyrrolidinium iodide).

reactant | N-cyclohexylpyrrolidine | 0.326 mole, 50 gm | C1(CCCCC1)N1CCCC1 | C10H19N
reactant | butyl iodide | 0.652 mole, 120 gm | C(CCC)I | C4H9I
reactant | potassium bicarbonate | 0.326 mole, 33.7 gm, one equivalent | C([O-])(O)=O.[K+]
solvent | methanol | 600 ml | CO | CH4O
product | N-butyl-N-cyclohexylpyrrolidinium Iodide | 95 gm, 86% yield | [I-].C(CCC)[N+]1(CCCC1)C1CCCCC1 | InChI=1S/C14H28N.HI/c1-2-3-11-15(12-7-8-13-15)14-9-5-4-6-10-14;/h14H,2-13H2,1H3;1H/q+1;/p-1
